US05352690
1-Benzyloxy-2-[3-chloropropoxy]-4-ethyl-6-ethoxy benzene was prepared in 77% yield as a white solid from 1-Benzyloxy-2-[3-chloropropoxy]-4-ethyl-6-hydroxy benzene and ethyliodide.

reactant | 1-Benzyloxy-2-[3-chloropropoxy]-4-ethyl-6-hydroxy benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1O)CC)OCCCCl | C18H21ClO3
reactant | ethyliodide | C(C)I | C2H5I
product | 1-Benzyloxy-2-[3-chloropropoxy]-4-ethyl-6-ethoxy benzene | 77% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OCC)CC)OCCCCl | C20H25ClO3
